US08124629B2
2-Ethoxycarbonyl-3-[1-(4-fluoro-phenyl)-meth-(E)-ylidene]-4-methyl-pentanedioic acid 1-tert-butyl ester 5-ethyl ester
Malonic acid tert-butyl ester ethyl ester (30.08 g, 151.8 mmol) was added to a solution of potassium tert-butoxide (16.30 g, 138.0 mmol) in 200 mL of N,N-dimethyl acetamide, while the reaction temperature was maintained at ˜25° C. To the resulting mixture was then added the solution of 4-(4-fluoro-phenyl)-2-methyl-buta-2,3-dienoic acid ethyl ester prepared above, at such a rate that the reaction temperature was maintained between 20-28° C. After the addition was complete, the reaction mixture was stirred at room temperature for 20 minutes, when HPLC indicated completed reaction. The mixture was then treated with 100 mL of 1M citric acid and 150 mL of ice-water, and then extracted with 400 mL of methyl tert-butyl ether. The organic extract was separated and washed with 2×200 mL of water, and then concentrated to produce 56.36 g of a yellow oil, which was used in the next step without further purification.

reactant | Malonic acid tert-butyl ester ethyl ester | 151.8 mmol, 30.08 g | C(C)OC(CC(=O)OC(C)(C)C)=O | C9H16O4
reactant | potassium tert-butoxide | 138.0 mmol, 16.30 g | CC(C)([O-])C.[K+]
reactant | 4-(4-fluoro-phenyl)-2-methyl-buta-2,3-dienoic acid ethyl ester | C(C)OC(C(=C=CC1=CC=C(C=C1)F)C)=O | C13H13FO2
reactant | citric acid | 1M, 100 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethyl acetamide | 200 mL | CN(C(C)=O)C | C4H9NO
product | 2-Ethoxycarbonyl-3-[1-(4-fluoro-phenyl)-meth-(E)-ylidene]-4-methyl-pentanedioic acid 1-tert-butyl ester 5-ethyl ester | 56.36 g | C(C)OC(C(\C(\C(C(=O)OC(C)(C)C)C(=O)OCC)=C/C1=CC=C(C=C1)F)C)=O | C22H29FO6
